US04469698
(2) 1-butyl-5-nitroso-6-aminouracil
91.5 g (0.5 mole) of 1-butyl-6-aminouracil are suspended in 1 liter of water in a reactor equipped with a magnetic stirrer. A solution of 38 g of sodium nitrite in 250 ml of water is added to the suspension. 65 ml of acetic acid are then run in dropwise with stirring, after which the mixture is stirred for 18 hours at ambient temperature. After cooling in an ice bath, the precipitate is filtered, giving 90 g of violet-coloured crystals.

reactant | 1-butyl-6-aminouracil | 0.5 mole, 91.5 g | C(CCC)N1C(=O)NC(=O)C=C1N | C8H13N3O2
reactant | sodium nitrite | 38 g | N(=O)[O-].[Na+]
reactant | acetic acid | 65 ml | C(C)(=O)O | C2H4O2
solvent | water | 1 liter | O | H2O
solvent | water | 250 ml | O | H2O
product | 1-butyl-5-nitroso-6-aminouracil | 90 g | C(CCC)N1C(=O)NC(=O)C(=C1N)N=O | C8H12N4O3
